* C:\Users\ekultho\Documents\Personal\CG 490\FEMM Simulations\SPICE Dependencies\onTime.asc
V2 N001 0 50 Rser=.12
L1 N001 Vo {L_COIL} Rser={R_COIL} Cpar=1e-9
XM1 NC_01 NC_02 NC_03 NC_04 NC_05 STP310N10F7_V3
XU1 Tcase TopsideCopper Area_Contact_mm2=100 Area_PCB_mm2=10000 Copper_Thickness_oz=1 Tambient=25 LFM=0 PCB_FR4_Thickness_mm=1.5
XM2 Vo N002 0 Tj Tcase IPB180N10S4_02
V1 N002 0 20
.lib OptiMOS-T2_100V.lib
.tran 0 0.04 0 0.00001
.lib STP310N10F7_V3.lib
.ic I(L1) = I_COIL
.param I_COIL=0
.param L_COIL=0.00021999999999999998
.param R_COIL=0.19817321913596325
.lib SOAtherm-PCB.lib
.backanno
.end
